US08735444B2
2-Fluoro-5-nitro-N-trifluoroacetylaniline (32-NO2—H):
2-Fluoro-5-nitroaniline (7.0 g, 45 mmol) was dissolved in CH2 Cl2 (200 mL) and Et3 N (7.0 mL, 49 mmol) was added. Then (CF3 CO)2O (7.5 mL, 11.3 g, 54 mmol) in 25 mL of CH2 Cl2 was added dropwise at 0° C., and the mixture was stirred for 24 h at room temperature. The reaction mixture was washed with water (3×300 mL) and saturated aq. NaHCO3 (300 mL). The organic layer was separated, and an aqueous layer was extracted with CH2 Cl2 (2×100 mL). Combined organic solutions were dried over Na2 SO4, evaporated, and the title compound was isolated as a light beige solid with m.p. 112-113° C.; yield—10.5 g (93%). 1H NMR (CDCl3, 300 MHz, ppm): δ=7.35 (t, JHH=3JHF=9.2, 1H, H-3), 8.14 (ddd, 4JHH=2.8, 4JHF=4.2, 3JHH=9.2, 1H, H-4), 8.22 (br s, NH), 9.18 (dd, 3JHH=2.9, 4JHF=6.4, 1H, H-6); 13C NMR (CDCl3, 75.5 MHz, ppm): δ=115.1 (q, 1JCF=289, CF3), 116.1 (d, 2JCF=22, C-3), 117.8 (d, 3JCF=2.3, C-4/6), 122.3 (d, 3JCF=9.5, C-6/4), 124.6 (d, 2JCF=12.7, C-1), 144.5 (C-5), 154.4 (q, 2JCF=42, CO), 155.8 (d, 1JCF=256, C-2); EI-MS: m/z (rel. int., %)=223 (100) [M—HCO]+, 154 (21), 126 (18), 99 (17).

reactant | 2-Fluoro-5-nitroaniline | 45 mmol, 7.0 g | FC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | (CF3 CO)2O | 54 mmol, 7.5 mL, 11.3 g | O(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C4F6O3
solvent | Cl2 | 200 mL | ClCl | Cl2
product | 2-Fluoro-5-nitro-N-trifluoroacetylaniline | FC1=C(NC(C(F)(F)F)=O)C=C(C=C1)[N+](=O)[O-] | C8H4F4N2O3
